US04437878
14.4 parts by weight of methyl 3-keto-3,4-dihydrothiophene-4-carboxylate, 16.1 parts by weight of phenylurea and 0.5 part by weight of toluenesulfonic acid in 90 parts by weight of cyclohexane were refluxed for 3 hours, while stirring, in an apparatus equipped with a water separator. The mixture was cooled, and the residue was then filtered off under suction and recrystallized from ethanol. 16.1 parts by weight of N-phenyl-N'-(3-methoxycarbonyl-2,5-dihydrothien-4-yl)-urea of melting point 182°-184° C. were obtained.

reactant | methyl 3-keto-3,4-dihydrothiophene-4-carboxylate | O=C1CSCC1C(=O)OC | C6H8O3S
reactant | phenylurea | C1(=CC=CC=C1)NC(=O)N | C7H8N2O
reactant | toluenesulfonic acid | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
reactant | cyclohexane | C1CCCCC1 | C6H12
solvent | water | O | H2O
product | N-phenyl-N'-(3-methoxycarbonyl-2,5-dihydrothien-4-yl)-urea | C1(=CC=CC=C1)NC(=O)NC1=C(CSC1)C(=O)OC | C13H14N2O3S
